US06057332
3-Phenylpropyl 4-(3,4-dichlorophenyl)-2-methylthio-6-[(2-(1-piperidinyl)ethoxy)methyl]-1,4-dihydropyrimidine-5-carboxylate
A mixture of 3-phenylpropyl 4-(2-(1-piperidinyl)ethoxy)acetoacetate (10.6 g, 30.6 mmol), 3,4-dichlorobenzaldehyde (5.9 g, 34.0 mmol), 2-methyl-2-thiopseudourea sulfate (6.15 g, 22.1 mmol) and sodium acetate (2.78 g, 34.0 mmol) was stirred in N,N-dimethylformamide (50 mL) for 4 days at room temperature, then heated to 60° C. for 24 h. The DMF was removed in vacuo and ethyl acetate was added to the residue. The precipitate was removed by filtration and the filtrate was washed with water, sodium hydrogen carbonate solution and brine, dried and evaporated to yield an oil. This oil was further purified by flash chromatography to give the title compound (1.3 g) as an oil. The oil can be converted into a mono or dihydrochloride salt, by dissolution in ether and addition of one or two equivalents of hydrogen chloride. Electrospray MSm /z 576/578 [M+H]+.

reactant | 3-phenylpropyl 4-(2-(1-piperidinyl)ethoxy)acetoacetate | 30.6 mmol, 10.6 g | N1(CCCCC1)CCOCC(CC(=O)OCCCC1=CC=CC=C1)=O | C20H29NO4
reactant | 3,4-dichlorobenzaldehyde | 34.0 mmol, 5.9 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | 2-methyl-2-thiopseudourea sulfate | 22.1 mmol, 6.15 g | S(=O)(=O)(O)O.CSC(N)=N
reactant | sodium acetate | 34.0 mmol, 2.78 g | C(C)(=O)[O-].[Na+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 3-Phenylpropyl 4-(3,4-dichlorophenyl)-2-methylthio-6-[(2-(1-piperidinyl)ethoxy)methyl]-1,4-dihydropyrimidine-5-carboxylate | 1.3 g | ClC=1C=C(C=CC1Cl)C1N=C(NC(=C1C(=O)OCCCC1=CC=CC=C1)COCCN1CCCCC1)SC | C29H35Cl2N3O3S
